US08802688B2
To a solution of 5-bromo-1H-indole-3-carbonitrile (2.61 g, 11.8 mmol) in ethanol (50 mL) in a 500 mL Parr bottle was added sodium acetate (2.90 g, 35.6 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium (II) dichloride dichloromethane complex (1.93 g, 2.36 mmol). The reaction mixture was evacuated and back filled with nitrogen three times. The reaction vessel was then pressurized with 25 psi carbon monoxide. The reaction was heated to 70° C. and when the desired temperature was reached the pressure of the vessel was increased to 40 psi. The reaction was agitated at 70° C. for 24 hours. The mixture was filtered through Celite, rinsing with ethanol. The filtrate was concentrated under reduced pressure and then diluted with dichloromethane. The mixture was filtered to remove the insoluble solids. The filtrate was concentrated and purified by flash column chromatography (20-80% ethyl acetate/heptanes). The resulting solid was triturated with dichloromethane and a small amount of heptanes to give ethyl 3-cyano-1H-indole-5-carboxylate (1.05 g, 41%) 1H NMR (400 MHz, DMSO-d6, δ): 12.54 (br. s., 1 H), 8.41 (d, J=2.7 Hz, 1 H), 8.25 (d, J=1.6 Hz, 1 H), 7.89 (dd, J=8.6, 1.6 Hz, 1 H), 7.66 (dd, J=8.6, 0.6 Hz, 1 H), 4.34 (q, J=7.0 Hz, 2 H), 1.35 (t, J=7.1 Hz, 3 H).

reactant | 5-bromo-1H-indole-3-carbonitrile | 11.8 mmol, 2.61 g | BrC=1C=C2C(=CNC2=CC1)C#N | C9H5BrN2
reactant | sodium acetate | 35.6 mmol, 2.90 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 3-cyano-1H-indole-5-carboxylate | 1.05 g, 41% | C(#N)C1=CNC2=CC=C(C=C12)C(=O)OCC | C12H10N2O2
